US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (10.5 g) is alkylated using 1-bromo-4,4-dimethyl-pent-2-yne (7 g; 40 mmol) and K2CO3 (5.52 g; 40 mmol) at 40° C. for 16 h. After aqueous work-up and purification by RP chromatography the pure material (3.9 g) is de-acetylated in MeOH (250 ml) using DBU (3.58 g) at reflux. After aqueous work-up 5-amino-1-(4,4-dimethyl-pent-2-ynyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (2.9 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 10.5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 1-bromo-4,4-dimethyl-pent-2-yne | 40 mmol, 7 g | BrCC#CC(C)(C)C | C7H11Br
reactant | K2CO3 | 40 mmol, 5.52 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-1-(4,4-dimethyl-pent-2-ynyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 2.9 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC#CC(C)(C)C)=O)(C)C | C17H21N3O3
